US08703941B2
A solution of ethyl 2-amino-5-ethylthiophene-3-carboxylate (5 g, 25.09 mmol, 1.00 equiv) in formamide (60 mL) was stirred for 4 h at 180° C. in an oil bath. The reaction mixture was cooled and diluted with 200 mL of water. The solids were collected by filtration and dried in an oven under reduced pressure to give 2.6 g (57%) of 6-ethylthieno[2,3-d]pyrimidin-4-ol as a black solid. MS: m/z 181 (M+H)+.

reactant | ethyl 2-amino-5-ethylthiophene-3-carboxylate | 25.09 mmol, 5 g, 1.00 equiv | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | formamide | 60 mL | C(=O)N | CH3NO
solvent | water | 200 mL | O | H2O
product | 6-ethylthieno[2,3-d]pyrimidin-4-ol | 2.6 g, 57% | C(C)C1=CC2=C(N=CN=C2O)S1 | C8H8N2OS
